US07524971B2
A) Ethyl 2-acetyl-4-oxo-4-(2,4-dichlorophenyl)butyrate
To a solution of 3.26 ml of ethyl acetoacetate in ethanol (20 ml) is added dropwise 0.5 ml of a sodium ethoxide solution (21% in EtOH) at 0° C. The mixture is stirred for 15 minutes and 5.82 g de 2-bromo-1-(2,4-dichlorophenyl)ethanone predissolved in 30 ml of an ethanol/toluene mixture (2/1; v/v) is then added. The mixture is stirred for 4 hours at RT and then concentrated to dryness. The residue is purified by chromatography on silica gel to give 3.8 g of liquid corresponding to the expected product.

reactant | ethyl acetoacetate | 3.26 ml | C(CC(=O)C)(=O)OCC | C6H10O3
reactant | sodium ethoxide | 0.5 ml | [O-]CC.[Na+]
reactant | 2-bromo-1-(2,4-dichlorophenyl)ethanone | BrCC(=O)C1=C(C=C(C=C1)Cl)Cl | C8H5BrCl2O
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | ethanol toluene | 30 ml | C(C)O.C1(=CC=CC=C1)C
product | Ethyl 2-acetyl-4-oxo-4-(2,4-dichlorophenyl)butyrate | 3.8 g | C(C)(=O)C(C(=O)OCC)CC(C1=C(C=C(C=C1)Cl)Cl)=O | C14H14Cl2O4
